US04319913
The procedure of Example 38 was employed utilizing N-benzylaniline and 4-trifluoromethylphenyl phosphonic dichloride. The crude product produced as a result of the chromatographic separation was crystallized from diethyl ether and petroleum ether and recrystallized from diethyl ether to yield 1-[4-(trifluoromethyl)phenyl]-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (0.5 g, 4% yield) having a melting point of 187°-189° C.

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | 4-trifluoromethylphenyl phosphonic dichloride | FC(C1=CC=C(C=C1)P(=O)(Cl)Cl)(F)F | C7H4Cl2F3OP
product | 1-[4-(trifluoromethyl)phenyl]-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.5 g, 4% yield | FC(C1=CC=C(C=C1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O)(F)F | C20H15F3NOP
